US05882628
e. 3-(2,3-Dihydroxypropylaminocarbonyl)-5-(1,2-dihydroxyethyl)aniline
1-(2,3-Dihydroxypropylaminocarbonyl)-3-nitro-5-(1,2-dihydroxyethyl)benzene (0.40 g, 1.32 mmol) was dissolved in a mixture of methanol (40 ml) and water (20 ml). The solution was hydrogenated at 60 psi using a Pd/C catalyst (10%, 50 mg). The solution was filtered through celite and the solvents were removed by evaporation. The product was >95% pure by HPLC analysis and was used without further purification.

reactant | 1-(2,3-Dihydroxypropylaminocarbonyl)-3-nitro-5-(1,2-dihydroxyethyl)benzene | 1.32 mmol, 0.40 g | OC(CNC(=O)C1=CC(=CC(=C1)C(CO)O)[N+](=O)[O-])CO | C12H16N2O7
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 3-(2,3-Dihydroxypropylaminocarbonyl)-5-(1,2-dihydroxyethyl)aniline | OC(CNC(=O)C=1C=C(N)C=C(C1)C(CO)O)CO | C12H18N2O5
